US05206420
In method I succinic acid is reacted with dimethylaminoethanol to give bis(2-dimethylaminoethyl) succinate, which is then reacted with methyl chloride to give succinylcholine chloride.

reactant | succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | dimethylaminoethanol | CN(C)CCO | C4H11NO
product | bis(2-dimethylaminoethyl) succinate | C(CCC(=O)OCCN(C)C)(=O)OCCN(C)C | C12H24N2O4
